*
**********************************************************
*
* BST52
*
* NXP Semiconductors
*
* Darlington NPN transistor
* IC   = 1  A
* VCEO = 90 V 
* hFE  = min. 2000 @ 10V/500mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 89
* 
* Package Pin 1: Emitter
* Package Pin 2: Collector
* Package Pin 3: Base
*
*
*   
* Simulator: Spice 2
*
**********************************************************
*#
.SUBCKT BST52 1 2 3
*
* For use with Microsim PSPICE please
* modify the AREA statement in this 
* model:  e.g.
* SPICE: 
* Q2 1 22 3 BST52 AREA = 3.33 
* PSPICE:
* Q2 1 22 3 BST52 3.33
* 
Q1 1 2 33 BST52 1 
Q2 1 33 3 BST52 3.33 
R1 3 33 118.1 
D1 3 1 DIODE
* 
.MODEL BST52 NPN 
+ IS = 6.501E-15 
+ NF = 0.9913 
+ ISE = 1.113E-14 
+ NE = 2.5 
+ BF = 102.4 
+ IKF = 0.169 
+ VAF = 275.3 
+ NR = 1.163 
+ ISC = 6.246E-15 
+ NC = 1.042 
+ BR = 19.35 
+ IKR = 1000 
+ VAR = 20 
+ RB = 30.9 
+ IRB = 0.0002 
+ RBM = 2 
+ RE = 0.3 
+ RC = 3.583 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.63E-11 
+ VJE = 0.79 
+ MJE = 0.2652 
+ TF = 1.009E-09 
+ XTF = 252.1 
+ VTF = 6.4 
+ ITF = 2.99 
+ PTF = 0 
+ CJC = 7.9E-12 
+ VJC = 0.49 
+ MJC = 0.6503 
+ XCJC = 0.5 
+ TR = 9E-06 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.99 
.MODEL DIODE D 
+ IS = 2.833E-14 
+ N = 0.9881 
+ BV = 100 
+ IBV = 1.5E-08 
+ RS = 50 
+ CJO = 4.9E-12 
+ VJ = 0.4709 
+ M = 0.15 
+ FC = 0.89 
+ TT = 1E-12 
+ EG = 1.1 
+ XTI = 3 
.ENDS
*

